Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tape ___ / latex
 
Attending: ___.
 
Chief Complaint:
Scheduled admission for TAVR procedure
 
Major Surgical or Invasive Procedure:
TAVR ___
 
History of Present Illness:
___ with PMHx of ESRD intermittently on HD, HTN, GERD, T2DM, 
severe AS referred to ___ for TAVR on ___. Please refer to 
___ NP admission not for full details. In brief, 
patient was referred to ___ Cardiology in ___ after initially 
presenting to PCP in ___ with worsening SOB, DOE. TTE 
revealed severe aortic stenosis: mean gradient of 32 mmHg across 
the aortic valve, a peak gradient of 55 mmHg, and a calculated 
aortic valve area of 0.8 cm2. Symptoms inclusive of SOB with 
climbing stairs, ability to ambulate 50ft before becoming SOB 
and increasing fatigue with ADLs. Patient was admitted to NP 
service on ___ for planned TAVR on ___. 

Patient underwent TAVR on ___. While passing valve across 
aorta, patient became ischemic with STE on telemetry with 
associated hypotension. Likely transient coronary hypoperfusion 
in the setting of AI during valve passage across aortic 
stenosis. During this time, SBPs dropped to ___ and chest 
compressions were performed for around 2 minutes in the setting 
of hypotension. Patient never lost a pulse. SBP improved with 
pressors. Pressors eventually able to be weaned. Patient 
intubated. Access during the case left and right arterial 
sheaths pulled and sealed with angioseal. Left femoral venous 
sheath in place upon CCU transfer. Further more, during case Hct 
noted to drop from 29->___bdomen was performed which did 
not clearly demonstrate an obvious source of bleeding. He 
received 1unit pRBC and 100mg IV Lasix. 

On arrival to the CCU, patient is intubated and sedated. EKG 
demonstrated sinus bradycardia with Q waves in III. 

 
Past Medical History:
- Lumbar stenosis  
- DM type II  
- Obesity  
- HTN  
- Asthma  
- BPH  
- Erectile dysfunction
- Chronic kidney disease (Stage ___
- CAD  

 
Social History:
___
Family History:
FAMILY HISTORY:  
Mother and father both died in ___ of "old age" per patient. Two 
siblings are still alive and well. Three children are healthy. 
 
Physical Exam:
ADMISSION EXAM
#ERROR!
VS: Afebrile, 127/46, HR 72, Intubated 
GENERAL: Intubated, sedated.   
HEENT: L>R pupillary dilation, minimally reactive 
CARDIAC: RRR, soft systolic murmur   
LUNGS: Mechanical breath sounds anterior   
ABDOMEN: Soft, non-tender, non-distended. 
GU: Foley in place
EXTREMITIES: Warm, well perfused. No peripheral edema. LUE with 
fistula, palpable thrill, audible bruit. RUE with PIV and aline 
in place. Left groin with venous sheath. right and left groin 
arterial access site with dressings overlying site closure, no 
ecchymosis.   
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE EXAM
#ERROR!
Weight: 65.3 kg 
Tele: SR, no ectopy
ECG: no new ECG 
___: 119, 250, 167
VS: T 97.5, HR 73, BP 142/52, RR 18, 02 SAT 98% on RA
Physical Exam:  
Gen: sitting in chair, in NAD, MAE
Neuro: A&O x 3, no focal deficits, follows commands, MAE
Neck/JVP: (-) carotid bruits; JVP 6 cm
CV: RRR, S1/S2 with soft systolic ejection murmur @RUSB
Chest: CTAB, diminished at bases, no accessory use, no 
wheezes/rubs
ABD: soft, NT, +BS throughout
Extr: +1 ___ edema to mid shin, R > L most at ankle; he reports 
chronic R is worse than L; LUE with fistula, palpable thrill, 
audible bruit; LF access with firm hematoma upper thigh and at 
access site; RF access without hematoma. No bruits at either 
site 
Access sites: peripheral IV; left AV fistula present

ADMIT WT: 68.2 kg
DISCHARGE WT: 65.3 kg
 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 09:08AM   freeCa-1.08*
___ 09:08AM   HGB-6.9* calcHCT-21
___ 09:08AM   GLUCOSE-173* LACTATE-3.4* NA+-140 K+-4.2 
CL--114*
___ 09:08AM   TYPE-ART PO2-87 PCO2-36 PH-7.26* TOTAL 
CO2-17* BASE XS--9 INTUBATED-INTUBATED VENT-CONTROLLED
___ 10:00AM   TYPE-ART PO2-250* PCO2-35 PH-7.31* TOTAL 
CO2-18* BASE XS--7
___ 10:02AM   PLT COUNT-171
___ 10:02AM   WBC-8.0 RBC-2.35* HGB-7.1* HCT-23.4* MCV-100* 
MCH-30.2 MCHC-30.3* RDW-14.4 RDWSD-51.8*
___ 10:02AM   CALCIUM-7.5* PHOSPHATE-4.9* MAGNESIUM-2.2
___ 10:02AM   GLUCOSE-189* UREA N-99* CREAT-5.7* SODIUM-145 
POTASSIUM-3.8 CHLORIDE-111* TOTAL CO2-17* ANION GAP-21*

DISCHARGE LABS
#ERROR!
___ 05:10AM BLOOD WBC-9.8 RBC-2.47* Hgb-7.4* Hct-24.0* 
MCV-97 MCH-30.0 MCHC-30.8* RDW-14.3 RDWSD-50.4* Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD ___ PTT-35.5 ___
___ 05:10AM BLOOD Glucose-107* UreaN-110* Creat-5.9* Na-142 
K-4.0 Cl-104 HCO3-23 AnGap-19
___ 05:10AM BLOOD Calcium-8.4 Phos-5.7* Mg-2.0
___ 05:02AM BLOOD calTIBC-168* Ferritn-413* TRF-129*
___ 05:18AM BLOOD Triglyc-150* HDL-37 CHOL/HD-4.1 
LDLcalc-85

STUDIES
#ERROR!
TEE:
PRE-BYPASS: The left atrium is mildly dilated. No spontaneous 
echo contrast or thrombus is seen in the body of the left atrium 
or left atrial appendage. No atrial septal defect is seen by 2D 
or color Doppler. Left ventricular wall thicknesses are normal. 
The left ventricular cavity is mildly dilated. There is moderate 
to severe regional left ventricular systolic dysfunction with 
akinetic apex and anterior wall. Overall left ventricular 
systolic function is moderately depressed (LVEF= ___. The 
remaining left ventricular segments are hypokinetic. The right 
ventricular free wall thickness is normal. The right ventricular 
cavity is mildly dilated with mild global free wall hypokinesis. 
There are simple atheroma in the aortic root. There are simple 
atheroma in the ascending aorta. The descending thoracic aorta 
is mildly dilated. There are simple atheroma in the descending 
thoracic aorta. There are three aortic valve leaflets. The 
aortic valve leaflets are severely thickened/deformed. There is 
severe aortic valve stenosis (valve area <1.0cm2). Trace aortic 
regurgitation is seen. The mitral valve leaflets are moderately 
thickened. There is moderate thickening of the mitral valve 
chordae. Mild to moderate (___) mitral regurgitation is seen. 
There is no pericardial effusion.

POST DEPLOYMENT:
1. There was sudden severe hemodynamic instability with global 
RV and LV hypokinesis and severe mitral regurgitation followed 
by complete cardiac arrest. 
2. With cardiopulmonary resuscitation and inotropic support bi- 
ventricular function gradually improved to almost baseline 
level.
3. However there was moderate mitral regurgitation.
4. A tri-leaflet valve is seen in the aortic position, well 
seated and stable with good leaflet excursion. There is minimal 
trans-aortic gradient.
5. No other change  

POST-TAVR ECHO
ECHO ___: LVEF ___
Aortic peak velocity 2.2 m/sec; peak gradient 15 mm Hg; mean 
gradient 11 mm Hg; valve area 2.2 cm2: TR gradient 37 mm Hg
The left atrial volume index is severely increased. No atrial 
septal defect is seen by 2D or color Doppler. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity is mildly dilated. There is moderate regional left 
ventricular systolic dysfunction with focal hypokinesis of the 
mid to apical anterior wall, mid to apical septum, and entire 
inferior wall. The remaining segments contract normally (LVEF = 
___ %). No masses or thrombi are seen in the left ventricle. 
Tissue Doppler imaging suggests an increased left ventricular 
filling pressure (PCWP>18mmHg). Right ventricular chamber size 
and free wall motion are normal. A ___ 3 aortic valve 
bioprosthesis is present. The aortic valve prosthesis appears 
well seated, with normal leaflet/disc motion and transvalvular 
gradients. A paravalvular jet of mild aortic regurgitation is 
seen. Mild (1+) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Moderate (2+) mitral regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Hypertrophied and mildly dilated left ventricle with 
regional left ventricular systolic dysfunction most c/w 
multivessel CAD. Normal right ventricular cavity size and 
systolic function. Well-seated bioprosthetic aortic prosthesis 
with mild aortic regurgitation and small paravalvular leak. 
Moderate mitral regurgitation. Pulmonary artery systolic 
hypertension.

Compared with the prior study (images reviewed) of ___, an 
aortic bioprosthesis is present. Regional left ventricular 
systolic dysfunction is new with a decline in ejection fraction. 
There is more mitral regurgitation. Pulmonary artery pressures 
are higher.  

FEMORAL VASCULAR ULTRASOUND:
#ERROR!
IMPRESSION:    
Normal sonographic appearance of the groin, without evidence of 
pseudoaneurysm, or AV fistula.  There is a small hematoma 
adjacent to the left common femoral artery measuring 2.8 cm. 

 
Brief Hospital Course:
___ with PMHx of ESRD intermittently on HD, HTN, GERD, T2DM, 
severe AS referred to ___ for TAVR on ___, with procedure 
complicated by transient ischemic changes on telemetry and 
hypotension during valve passage briefly requiring pressors, 
transferred to the CCU intubated for further management. Patient 
intubated in setting of GA for TAVR. During valve passage across 
aortic stenosis patient experienced transient STE ischemic 
changes on telemetry with associated hypotension thought to be 
related to transient coronary hypoperfusion during valve 
passage. Per report, patient never lost a pulse but required 
chest compressions for 2 minutes until action of pressors. Prior 
to arrival to CCU, pressors weaned. Upon arrival in the CCU, pt 
was intubated, sedated, but was extubated after passing SBT. 
With his new O2 requirement and pulmonary edema seen on CXR, the 
patient was diuresed with 200 mg of IV Lasix and placed on a 
Lasix gtt. Problem list while in CCU included:

   #Anemia. Hct droped during procedure from 29 to 21 during 
procedure, and pt received 1 unit pRBC. CT A/P during case did 
not reveal obvious source of bleeding. Left and right arterial 
access sites closed with angioseal with good hemostasis per 
report. Upon arrival in the CCU, pt received additional 1U pRBC, 
with appropriate bump in H/H. Transfusions were given with 
Lasix, as pt was hypervolemic on physical exam and had pulmonary 
edema on CXR with O2 requirement. He was diuresed with 200mg IV 
Lasix bolus and then started on IV Lasix 10 gtt. The patient 
also had a left hematoma and an ultrasound was performed that 
did not show pseudoaneurysm, or AV fistula.  There was a small 
hematoma adjacent to the left common femoral artery measuring 
2.8 cm.

   #Severe AS s/p TAVR. Valve dynamics: Mean gradient of 32 
mmHg, peak gradient of 55 mmHg, and a calculated aortic valve 
area of 0.8 cm2. Patient underwent TAVR on ___. Procedure was 
complicated by transient ischemic and hypotension as above. 
Patient was monitored on telemetry and with daily EKG to monitor 
for post-TAVR complications including new BB morphology and PR 
prolongation. He received cefazolin 2g q8h for 2 doses 
post-procedure. He was started on ASA 81mg and Plavix 75mg.

   #CAD//HFrEF. 3V Disease, with 100% LAD occlusion, Left Cx 
40-50% proximal, 60% distal lesion, RCA 80-90% mid and 60-70% 
distal lesion. EF ___. Post TAVR EKG demonstrating Q waves in 
III, new from prior. Sinus bradycardia likely in the setting of 
propofol. Patient was diuresed with IV Lasix as above for volume 
management. He was continued on ASA, Plavix as above. Patient 
should be considered for need for cardiac catheterization for 
RCA lesion this admission   

   #ESRD intermittently on HD, with LUE fistula. Not anuric. 
Last HD in ___ after undergoing cardiac cath. Fistula 
active. Per report, patient not interested in pursuing dialysis. 
K 3.8. Patient was continued VitD3, Calcitrol, Sodium Bicarb. 

Patient was then transferred to ___ 3 for further management. 
Patient continued on ASA/Plavix for AS and repeat echocardiogram 
post-TAVR showed reduced LVEF to ___, peak gradient 19 mmHg, 
mean gradient 11 mmHg and ___ measurement of 2.2 cm2. He was 
started on low dose Metoprolol tartrate for HFrEF at 12.5 mg 
daily, no Lisinopril given chronic kidney disease and creatinine 
rise to 6.1 on admission. He is on ASA, and started on 
Atorvastatin. His hematoma stabilized and no further blood 
transfusions were required. Renal was consulted for his anemia 
no dialysis was indicated. With continued decrease in levels, he 
was given Procrit 5000 units on day of discharge and follow-up 
with his outpatient nephrologist. He will need high risk PCI in 
the future and will follow-up with Dr. ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sodium Bicarbonate 325 mg PO BID 
2. Allopurinol ___ mg PO DAILY 
3. Montelukast 10 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Furosemide 40 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Magnesium Oxide 250 mg PO DAILY 
8. Acetaminophen w/Codeine 1 TAB PO Q8H: PRN Pain - Mild 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Calcitriol 0.25 mcg PO 3X/WEEK (___)  
4.  Clopidogrel 75 mg PO DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  Furosemide 20 mg PO DAILY  
7.  Heparin 5000 UNIT SC BID  
8.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin 
9.  Metoprolol Tartrate 12.5 mg PO BID  
10.  Pantoprazole 40 mg PO Q24H  
11.  Senna 8.6 mg PO BID:PRN constipation  
12.  Acetaminophen w/Codeine 1 TAB PO Q8H: PRN Pain - Mild  
13.  Allopurinol ___ mg PO DAILY  
14.  Magnesium Oxide 250 mg PO DAILY  
15.  Montelukast 10 mg PO DAILY  
16.  Multivitamins 1 TAB PO DAILY  
17.  Sodium Bicarbonate 325 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Aortic stenosis-severe
CKD
Diabetes type 2
Hypertension
Hyperlipidemia
GERD

 
Discharge Condition:
Mental Status: Clear and coherent. Level of Consciousness: Alert 
and interactive. Activity Status: Ambulatory - requires 
assistance or aid (walker or cane).

 
Discharge Instructions:
You were admitted to ___ because you had transcatheter 
aortic valve replacement (TAVR).

Continue all your current medications with the following change:
  START Plavix 75 mg daily (for three months)
  START ASA 81 mg daily, lifelong
  START Metoprolol Tartrate 12.5 mg twice/day
  DECREASE Furosemide to 20 mg daily
 
It is very important to take all of your heart healthy 
medications. In particular, you are now taking aspirin and 
clopidogrel (also known as Plavix). These two medications keep 
blood clots from forming on the new valve. If you stop these 
medications or miss ___ dose, you risk causing a blood clot 
forming on your new valve. This could cause it to malfunction 
and it may be life threatening. Please do not stop taking either 
medication without taking to your heart doctor, even if another 
doctor tells you to stop the medications.

Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your heart doctor or your primary care doctor and alert 
them to this change.

We have made changes to your medication list, so please make 
sure to take your medications as directed. You will also need to 
have close follow up with your heart doctor and your primary 
care doctor.

It was a pleasure taking care of you. We wish you the best with 
your health!

 
Followup Instructions:
___